US05614548
(±)-3-hexadecylthio-2-methoxy-N,N,N-trimethyl-1-propyl ammonium bromide
To a 100 milliliter heavy wall glass tube equipped with a magnetic stir bar, was added a solution of 2.0 grams (0.005 mole) of (±)-1-hexadecylthio-2-methoxy-3-bromopropane dissolved in 50 milliliters of CH3CN and the vessel was cooled to -10° Centigrade. An excess of condensed trimethylamine was added, the tube was sealed, and the vessel was heated to 60° Centigrade for 24 hours. The reaction mixture was then cooled to room temperature, resulting in a precipitate which was filtered. The precipitate was swirled with five 50 milliliter portions of ether, the ether decanted off, and dried under vacuum, resulting in 2.1 grams (92%) of pure product, (mp 197°-199° Centigrade). 1H-NMR (CDCl3): delta, 0.87(t, 3H, terminal methyl), 1.2-1.6[m, 28H, (CH2)14 ], 2.45-3.0(m, 4H, CH2S--CH2), 3.48[s, 12H, CH3 --O, N(CH3)3 ], 3.5-4.0(m, 3H, CH--CH2N). Anal. (C23H50NOSBr) C,H,N.

reactant | (±)-1-hexadecylthio-2-methoxy-3-bromopropane | 0.005 mole, 2.0 grams | C(CCCCCCCCCCCCCCC)SCC(CBr)OC | C20H41BrOS
reactant | trimethylamine | CN(C)C | C3H9N
solvent | CH3CN | 50 milliliters | CC#N | C2H3N
product | (±)-3-hexadecylthio-2-methoxy-N,N,N-trimethyl-1-propyl ammonium bromide | 2.1 grams, 92% | [Br-].C(CCCCCCCCCCCCCCC)SCC(C[N+](C)(C)C)OC | InChI=1S/C23H50NOS.BrH/c1-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-26-22-23(25-5)21-24(2,3)4;/h23H,6-22H2,1-5H3;1H/q+1;/p-1
